US04013647
In a manner similar to Example I, 1-(4-methoxybenzyl)-1H-tetrazole-5-carbonyl chloride is condensed with 2-amino-6-(2-methyl-4-morpholinyl)benzonitrile to give 1-(4-methoxybenzyl)-N-[2-cyano-3-(2-methyl-4-morpholinyl)phenyl]-1H-tetrazole-5-carboxamide.

reactant | 1-(4-methoxybenzyl)-1H-tetrazole-5-carbonyl chloride | COC1=CC=C(CN2N=NN=C2C(=O)Cl)C=C1 | C10H9ClN4O2
reactant | 2-amino-6-(2-methyl-4-morpholinyl)benzonitrile | NC1=C(C#N)C(=CC=C1)N1CC(OCC1)C | C12H15N3O
product | 1-(4-methoxybenzyl)-N-[2-cyano-3-(2-methyl-4-morpholinyl)phenyl]-1H-tetrazole-5-carboxamide | COC1=CC=C(CN2N=NN=C2C(=O)NC2=C(C(=CC=C2)N2CC(OCC2)C)C#N)C=C1 | C22H23N7O3
